US07144899B2
Step B: ({(1R)-2-[(2S)-2-({[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]amino}carbonyl)azetidin-1-yl]-1-cyclohexyl-2-oxoethyl}amino)acetic acid
TFA (5 mL) was added to a solution of tert-butyl({(1R)-2-[(2S)-2-({[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]amino}carbonyl)azetidin-1-yl]-1-cyclohexyl-2-oxoethyl}amino)acetate (22 mg, 0.04 mmol) in CH2Cl2 (5 mL) at 0° C. After stirring for 16 h the reaction mixture was concentrated. The title compound was isolated by reverse phase HPLC. LCMS (M+H): 489.3. 1H NMR (400 MHz, CD3OD): δ 8.80 (s, 1H), 8.22 (s, 1H), 7.67 s, 1H), 7.50 (m, 2H), 4.79 (m, 1H), 4.45–4.20 (m, 5H), 3.91 (m, 3H), 2.61 (m, 1H), 2.21 (m, 1H), 1.87–1.72 (m, 5H), 1.37–1.17 (m, 5H).

reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl({(1R)-2-[(2S)-2-({[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]amino}carbonyl)azetidin-1-yl]-1-cyclohexyl-2-oxoethyl}amino)acetate | 0.04 mmol, 22 mg | C(C)(C)(C)OC(CN[C@@H](C(=O)N1[C@@H](CC1)C(=O)NCC1=C(C=CC(=C1)Cl)N1N=CN=C1)C1CCCCC1)=O | C27H37ClN6O4
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | ({(1R)-2-[(2S)-2-({[5-chloro-2-(1H-1,2,4-triazol-1-yl)benzyl]amino}carbonyl)azetidin-1-yl]-1-cyclohexyl-2-oxoethyl}amino)acetic acid | ClC=1C=CC(=C(CNC(=O)[C@H]2N(CC2)C([C@@H](C2CCCCC2)NCC(=O)O)=O)C1)N1N=CN=C1 | C23H29ClN6O4
